US07671080B2
A 1.0M solution of lithium aluminium hydride in tetrahydrofuran (30 ml, 30.0 mmol) was added dropwise to a solution of 4,4,4,-trifluoro-3-hydroxy-3-methyl butyramide (1.77 g, 10 mmol). The reaction was stirred at room temperature for 20 h, then quenched with water (1.2 ml), then 4M aqueous sodium hydroxide (1.2 ml), then water (3.6 ml). The inorganic salts were filtered off and the filtrate evaporated to dryness to yield 4-amino-1,1,1-trifluoro-2-methylbutan-2-ol (1.27 g, 81%) as a yellow solid.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 30.0 mmol, 30 ml | O1CCCC1 | C4H8O
reactant | 4,4,4,-trifluoro-3-hydroxy-3-methyl butyramide | 10 mmol, 1.77 g | FC(C(CC(=O)N)(C)O)(F)F | C5H8F3NO2
product | 4-amino-1,1,1-trifluoro-2-methylbutan-2-ol | 1.27 g, 81% | NCCC(C(F)(F)F)(O)C | C5H10F3NO
